US03970704
To a solution of 1.8 g. of 6,10-dimethylundeca-3,9-dien-2-one in 20 ml. of ethanol, cooled to 0° by an ice bath is added a suspension of 2.32 g. of mercuric acetate in 50 ml. of ethanol over 15 minutes. The reaction mixture is stirred for 2 hours and then, with cooling, to -20°, 1.22 g. of potassium hydroxide in 20 ml. of ethanol is added. Then 0.139 g. of sodium borohydride is added in small portions and stirring continued for 30 minutes at -20°. The solution is decanted, then concentrated to half volume, diluted with 100 ml. of water and extracted with ether (3 × 50). The ethereal phase is washed with water, dried over magnesium sulfate and the crude product chromatographed on silica to yield 10-ethoxy-6,10-dimethylundec-3-en-2-one.

reactant | 6,10-dimethylundeca-3,9-dien-2-one | CC(CC=CC(C)=O)CCC=C(C)C | C13H22O
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | 10-ethoxy-6,10-dimethylundec-3-en-2-one | C(C)OC(CCCC(CC=CC(C)=O)C)(C)C | C15H28O2
